US09301951B2
Intermediate 67a: 3-(4-hydroxybut-1-yn-1-yl)benzoic acid
Into a 500-mL round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-bromobenzoic acid (10 g, 49.75 mmol, 1.00 equiv) in triethylamine/N,N-dimethylformamide (100/20 mL), but-3-yn-1-ol (6.98 g, 99.57 mmol, 2.00 equiv), copper(I) iodide (1.90 g, 9.97 mmol, 0.20 equiv), Pd(PPh3)2Cl2 (6.98 g, 9.94 mmol, 0.20 equiv). The resulting solution was stirred overnight at 80° C. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 100 mL of water. The pH value of the solution was adjusted to 11-12 with sodium hydroxide (1 mol/L). The resulting solution was extracted with 3×300 mL of dichloromethane and the aqueous layers combined. The solution was adjusted to pH 1-2 with hydrochloric acid (1 mol/L). The resulting solution was extracted with 5×300 mL of dichloromethane and the organic layers combined, dried over sodium sulfate, and concentrated under vacuum. This resulted in 10 g crude product as brown oil.

reactant | 3-bromobenzoic acid | 49.75 mmol, 10 g, 1.00 equiv | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | but-3-yn-1-ol | 99.57 mmol, 6.98 g, 2.00 equiv | C(CC#C)O | C4H6O
solvent | triethylamine N,N-dimethylformamide | 20 mL | C(C)N(CC)CC.CN(C=O)C
catalyst | copper(I) iodide | 9.97 mmol, 1.90 g, 0.20 equiv | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 9.94 mmol, 6.98 g, 0.20 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-hydroxybut-1-yn-1-yl)benzoic acid | 10 g | OCCC#CC=1C=C(C(=O)O)C=CC1 | C11H10O3
